US07390923B2
b) 4-(2-Dimethylaminoethoxy)phenol
A stirred solution of [2-(4-benzyloxyphenoxy)ethyl]dimethylamine (3.36 g, 0.01238 mol) in the mixture of 6 M HCl (67 ml) and ethanol (33.5 ml) was refluxed for 6.5 h. Then ethanol was evaporated and pH was adjusted to 8 with 2.5 M NaOH. The product was extracted into ethyl acetate. The extracts were washed with water and dried over Na2SO4. Removal of solvent under reduced pressure gave a raw product which was purified by flash chromatography on silica gel using heptane/ethyl acetate (9:1-6:4) as a gradient eluent. 1H NMR (300 MHz, DMSO-d6): 2.20 (6H, s), 2.57 (2H, t, 3J=5.9 Hz), 3.92 (2H, t, 3J=5.9 Hz), 6.65 (2H, d, 3J=9.1 Hz), 6.74 (2H, d, 3J=9.0 Hz), 8.85 (1H, s, —OH).

reactant | [2-(4-benzyloxyphenoxy)ethyl]dimethylamine | 0.01238 mol, 3.36 g | C(C1=CC=CC=C1)OC1=CC=C(OCCN(C)C)C=C1 | C17H21NO2
reactant | HCl | 6 M, 67 ml | Cl | ClH
solvent | ethanol | 33.5 ml | C(C)O | C2H6O
product | 4-(2-Dimethylaminoethoxy)phenol | CN(CCOC1=CC=C(C=C1)O)C | C10H15NO2
